US05214056
Ethyl (4R,5R)-5-[(S)-3-methyl-1-(3-methylbutylcarbamoyl)butylcarbamoyl]-1,3,2-dioxathiolane-4-carboxylate-2,2-dioxide
Following the same procedures as in Example 3, ethyl (4R,5R)-5-[(S)-3-methyl-1-(3-methylbutylcarbamoyl)butylcarbamoyl]-1,3,2-dioxathiolane-4-carboxylate-2-oxide was prepared from ethyl (2R,3R)-2,3-dihydroxy-3-[(S)-3-methyl-1-(3-methylbutylcarbamoyl)butylcarbamoyl]propionate (40 mg). Subsequently, 30 mg of a target compound were obtained following the same procedures as in Example 4. NMR data of the compound were as follows.

reactant | ethyl (4R,5R)-5-[(S)-3-methyl-1-(3-methylbutylcarbamoyl)butylcarbamoyl]-1,3,2-dioxathiolane-4-carboxylate-2-oxide | CC(C[C@@H](C(NCCC(C)C)=O)NC(=O)[C@H]1[C@@H](OS(O1)=O)C(=O)OCC)C | C17H30N2O7S
reactant | ethyl (2R,3R)-2,3-dihydroxy-3-[(S)-3-methyl-1-(3-methylbutylcarbamoyl)butylcarbamoyl]propionate | 40 mg | O[C@@H](C(=O)OCC)[C@H](C(N[C@@H](CC(C)C)C(NCCC(C)C)=O)=O)O | C17H32N2O6
product | Ethyl (4R,5R)-5-[(S)-3-methyl-1-(3-methylbutylcarbamoyl)butylcarbamoyl]-1,3,2-dioxathiolane-4-carboxylate-2,2-dioxide | 30 mg | CC(C[C@@H](C(NCCC(C)C)=O)NC(=O)[C@H]1[C@@H](OS(O1)(=O)=O)C(=O)OCC)C | C17H30N2O8S
